* NGSPICE file created from hx_delay_cell.ext - technology: ihp-sg13g2

.subckt hx_delay_cell DELAY_CELL_IN DELAY_CELL_OUT DELAY_CELL_OUT_INV DELAY_VBIASP
+ DELAY_VBIASN VSS VDD
X0 VDD a_121_203# DELAY_CELL_OUT VDD sg13_lv_pmos ad=0.2128p pd=1.5u as=0.3808p ps=2.92u w=1.12u l=0.13u
X1 a_229_831# DELAY_CELL_IN a_121_203# VDD sg13_lv_pmos ad=0.2128p pd=1.5u as=0.3808p ps=2.92u w=1.12u l=0.2u
X2 DELAY_CELL_OUT_INV DELAY_CELL_OUT VDD VDD sg13_lv_pmos ad=0.3808p pd=2.92u as=0.2128p ps=1.5u w=1.12u l=0.13u
X3 VSS.t1 DELAY_VBIASN a_229_203# VSS.t4 sg13_lv_nmos ad=0.2516p pd=2.16u as=0.1406p ps=1.12u w=0.74u l=0.6u
X4 VSS.t1 a_121_203# DELAY_CELL_OUT VSS.t3 sg13_lv_nmos ad=0.1406p pd=1.12u as=0.2516p ps=2.16u w=0.74u l=0.13u
X5 a_229_203# DELAY_CELL_IN a_121_203# VSS.t2 sg13_lv_nmos ad=0.1406p pd=1.12u as=0.2516p ps=2.16u w=0.74u l=0.2u
X6 DELAY_CELL_OUT_INV DELAY_CELL_OUT VSS.t1 VSS.t0 sg13_lv_nmos ad=0.2516p pd=2.16u as=0.1406p ps=1.12u w=0.74u l=0.13u
X7 VDD DELAY_VBIASP a_229_831# VDD sg13_lv_pmos ad=0.3808p pd=2.92u as=0.2128p ps=1.5u w=1.12u l=0.6u
C0 DELAY_CELL_OUT a_121_203# 0.69646f
C1 DELAY_CELL_OUT_INV VDD 0.36979f
C2 a_121_203# a_229_831# 0.01697f
C3 DELAY_CELL_IN VDD 0.36939f
C4 DELAY_CELL_OUT VDD 0.79778f
C5 a_121_203# VDD 0.85896f
C6 DELAY_CELL_OUT_INV DELAY_VBIASP 0.04319f
C7 a_229_831# VDD 0.02372f
C8 a_121_203# a_229_203# 0.01163f
C9 DELAY_CELL_IN DELAY_VBIASP 0.07324f
C10 DELAY_CELL_OUT DELAY_VBIASP 0.03757f
C11 a_121_203# DELAY_VBIASP 0.0573f
C12 VDD DELAY_VBIASP 1.04737f
C13 DELAY_CELL_OUT_INV DELAY_VBIASN 0.03989f
C14 DELAY_CELL_IN DELAY_VBIASN 0.06913f
C15 DELAY_CELL_OUT DELAY_VBIASN 0.03836f
C16 DELAY_CELL_OUT DELAY_CELL_OUT_INV 0.65743f
C17 DELAY_CELL_OUT DELAY_CELL_IN 0.01139f
C18 a_121_203# DELAY_VBIASN 0.06129f
C19 a_121_203# DELAY_CELL_IN 0.52957f
R0 VSS.t4 VSS.n12 373.135
R1 VSS.t2 VSS.n8 363.185
R2 VSS.t0 VSS.n5 348.26
R3 VSS.n15 VSS.t3 218.905
R4 VSS.t3 VSS.n5 159.204
R5 VSS.n16 VSS.n9 8.50181
R6 VSS.n7 VSS.n11 31.1964
R7 VSS.n6 VSS.n13 31.1964
R8 VSS.n4 VSS.n8 17.0005
R9 VSS.n4 VSS.n14 17.0005
R10 VSS.n9 VSS.n4 8.50106
R11 VSS.n4 VSS.n5 17.0005
R12 VSS.n4 VSS.n15 17.0005
R13 VSS.n16 VSS.n8 17.0005
R14 VSS.n16 VSS.n10 17.0005
R15 VSS.n16 VSS.n12 17.0005
R16 VSS.n16 VSS.n5 17.0005
R17 VSS.n7 VSS.n10 15.5985
R18 VSS.n15 VSS.n13 15.5985
R19 VSS.n14 VSS.n11 15.5985
R20 VSS.n6 VSS.n12 15.5985
R21 VSS.n9 VSS.t0 33.9189
R22 VSS.n10 VSS.t2 14.9259
R23 VSS.n0 VSS.n3 4.71596
R24 VSS.n4 VSS.t1 1.63655
R25 VSS.t1 VSS 6.21194
R26 VSS.n16 VSS.n3 1.55506
R27 VSS.n14 VSS.t4 4.97562
R28 VSS.n3 VSS.n2 0.239048
R29 VSS.n4 VSS.n6 0.70277
R30 VSS.n4 VSS.n7 0.70227
R31 VSS.n16 VSS.n11 0.70227
R32 VSS.n16 VSS.n13 0.70227
R33 VSS VSS.n0 9.1157
R34 VSS.t1 VSS.n2 0.861979
R35 VSS.n1 VSS.n0 1.46927
R36 VSS.n2 VSS.n1 5.29515
R37 VSS VSS.n1 2.89154
C20 DELAY_VBIASN VSS 1.11056f
C21 DELAY_CELL_OUT_INV VSS 0.56456f
C22 DELAY_CELL_OUT VSS 0.70493f
C23 DELAY_VBIASP VSS 0.05118f
C24 DELAY_CELL_IN VSS 0.64927f
C25 VDD VSS 1.31136f
C26 a_229_203# VSS 0.01732f ; **FLOATING
C27 a_121_203# VSS 0.91567f ; **FLOATING
.ends
